US04291050
A solution containing chloroacetone (11 g., 0.12 mole) and potassium iodide (0.5 g.) in acetone (30 ml) is stored in the dark for 18 hours then added in portions over a one hour period to a stirred refluxing mixture of 6,7-dichloro-5-hydroxy-2-methyl-2-phenyl-1-indanone (24.5 g., 0.08 mole) and potassium carbonate (11.0 g., 0.08 mole) in acetone. The acetone is distilled at reduced pressure and the residue slurried with ether and water to give 6,7-dichloro-2-methyl-5-(2-oxopropoxy)-2-phenyl-1-indanone which melts at 144° C. after recrystallization from ethanol.

reactant | chloroacetone | 0.12 mole, 11 g | ClCC(C)=O | C3H5ClO
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | 6,7-dichloro-5-hydroxy-2-methyl-2-phenyl-1-indanone | 0.08 mole, 24.5 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C1=CC=CC=C1)C)O | C16H12Cl2O2
reactant | potassium carbonate | 0.08 mole, 11.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 6,7-dichloro-2-methyl-5-(2-oxopropoxy)-2-phenyl-1-indanone | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C1=CC=CC=C1)C)OCC(C)=O | C19H16Cl2O3
